US06881733B1
1-benzyl-3-methyl-4-(5-trifluoromethylbenzofur-7-yl)-1,2,3,6-tetrahydropyridine
Beginning with 0.67 gm (1.72 mMol) 1-benzyl-3-methyl-4-hydroxy-4-(5-trifluoromethylbenzofur-7-yl)piperidine and 1.3 gm p-toluenesulfonic acid monohydrate, 0.29 gm (46%) of the desired compound were prepared essentially as described in EXAMPLE 3.

reactant | 1-benzyl-3-methyl-4-hydroxy-4-(5-trifluoromethylbenzofur-7-yl)piperidine | 1.72 mMol, 0.67 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=CC=2C=COC21)C(F)(F)F)O)C | C22H22F3NO2
reactant | p-toluenesulfonic acid monohydrate | 1.3 gm | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-benzyl-3-methyl-4-(5-trifluoromethylbenzofur-7-yl)-1,2,3,6-tetrahydropyridine | 0.29 gm, 46% | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC(=CC=2C=COC21)C(F)(F)F)C | C22H20F3NO
